US05654472
Synthesis of 1,3-diacetoxyacetone
Under an atmosphere of argon, 90 g of 1,3-dihydroxyacetone dimer and 250 mg of 4-(N,N-dimethylamino)pyridine were dissolved in 250 ml of pyridine. To the resulting solution, 225 ml of acetic anhydride was added dropwise at room temperature over 1 hour. After the resulting liquid was stirred at room temperature for 30 minutes, thereto was added 50 ml of methanol and the resulting liquid was further stirred at room temperature for 30 minutes. The solvent was removed under reduced pressure and the residue was subjected to a recrystallization from ether-petroleum ether to give 190 g of the desired compound.

reactant | 1,3-dihydroxyacetone dimer | 90 g | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | acetic anhydride | 225 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | methanol | 50 ml | CO | CH4O
catalyst | 4-(N,N-dimethylamino)pyridine | 250 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
product | 1,3-diacetoxyacetone | 190 g | C(C)(=O)OCC(=O)COC(C)=O | C7H10O5
